US07750014B2
A mixture of methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (2.0 g, 5.6 mmol), aminoacetaldehyde dimethylacetal (0.68 g, 6.5 mmol) and diisopropylethylamine (1.5 mL, 8.4 mmol) in 1,4-dioxane (50 mL) was stirred at 80° C. for 2 hours. The mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate. The extracts were washed with aq NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by preparative MPLC (silica gel, hexane:ethyl acetate, 2/1) to give methyl [4-chloro-6-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]-acetate (1.89 g, 79%) as a gray solid.

reactant | methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 5.6 mmol, 2.0 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H11Cl2N3O4
reactant | aminoacetaldehyde dimethylacetal | 6.5 mmol, 0.68 g | COC(CN)OC | C4H11NO2
reactant | diisopropylethylamine | 8.4 mmol, 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | methyl [4-chloro-6-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]-acetate | 1.89 g, 79% | ClC1=NC(=NC(=C1CC(=O)OC)NCC(OC)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H21ClN4O6
